US05656642
45 ml of a saturated solution of ammonia in methanol was added to 600 mg of 4-{N-methyl-N-[2-(4-methoxycarbonylphenyl)ethyl]amino}-1-[4-(1,2,4-triazol-1-yl)benzoyl]piperidine. The mixture was stirred at 110° C. for 69.5 hours in a sealed tube. The reaction mixture was cooled to room temperature and then subjected to distillation to remove the solvent. The residue was purified by a silica gel column chromatography (eluant:dichloromethane/methanol/ammonia water=200/20/1). The product was washed with diethyl ether for crystallization, followed by recrystallization from ethanol to obtain 320 mg of 4-{N-methyl-N-[2-(4-carbamoylphenyl)ethyl]amino}-1-[4-(1,2,4-triazol-1-yl)benzoyl]piperidine as a white powder.

reactant | ammonia | N | H3N
reactant | 4-{N-methyl-N-[2-(4-methoxycarbonylphenyl)ethyl]amino}-1-[4-(1,2,4-triazol-1-yl)benzoyl]piperidine | 600 mg | CN(CCC1=CC=C(C=C1)C(=O)OC)C1CCN(CC1)C(C1=CC=C(C=C1)N1N=CN=C1)=O | C25H29N5O3
solvent | methanol | CO | CH4O
product | 4-{N-methyl-N-[2-(4-carbamoylphenyl)ethyl]amino}-1-[4-(1,2,4-triazol-1-yl)benzoyl]piperidine | 320 mg | CN(CCC1=CC=C(C=C1)C(N)=O)C1CCN(CC1)C(C1=CC=C(C=C1)N1N=CN=C1)=O | C24H28N6O2
